US05792764
3-Allylamino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide
A mixture of 3-methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate (0.5 g) and allylamine (4 mL) was heated in a sealed bumb for 4-5 h at 120° C. After cooling, the amine was removed by distillation under reduced pressure. The residue was dissolved in 0.5N NaOH, treated with charcoal, filtered, and the filtrate was adjusted to pH 6 with 1N HCl. The resulting precipitate was collected by filtration, washed with water and dried to give the title compound as a dihydrate (yield: 0.44 g); m.p. 206°-208° C. (Compound 15).

reactant | 3-methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate | 0.5 g | O.CSC1=NS(C2=C(N1)C=CN=C2)(=O)=O
reactant | allylamine | 4 mL | C(C=C)N | C3H7N
product | 3-Allylamino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | C(C=C)NC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C9H10N4O2S
